US08212045B2
To a mixture of (S)-N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.24 g, 2.31 mmol) in EtOH (25 ml) and H2O (1.09 ml, 2.31 mmol) was added concentrate HCl (0.480 ml, 5.77 mmol) and the reaction was heated at reflux for 8 hours. The reaction was allowed to cool to ambient temperature and stirred overnight. The mixture was concentrated to a residue that was dissolved in EtOAc and saturated aqueous NaHCO3. The combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (3% MeOH/CH2Cl2) to afford (S)-1-(5-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol as cream solids. The solids were dissolved in CH2Cl2 (25 ml) and 1N HCl in Et2O (20 ml) was added. The mixture was concentrated to dryness and dried in the vacuum oven to afford (S)-1-(5-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (0.569 g, 49.9% yield) as an off-white solid. Mass spectrum (apci) m/z=458.1 (M+H—HCl).

reactant | (S)-N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 2.31 mmol, 1.24 g | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2 | C25H27N7O3S2
reactant | H2O | 2.31 mmol, 1.09 ml | O | H2O
reactant | HCl | 5.77 mmol, 0.480 ml | Cl | ClH
solvent | EtOH | 25 ml | CCO | C2H6O
product | (S)-1-(5-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H](CO)O | C19H19N7O3S2
